US09315542B2
(S)-Benzyl 4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanoate (3)
Referring to FIG. 45. DIPEA (592 μL, 3.6 mmol, 2.6 eq) was added to a mixture of (S)-benzyl 2-((S)-2-amino-4-phenylbutanamido)-4-methylpentanoate hydrochloride (600 mg, 1.4 mmol), 2-morpholinoacetic acid (312 mg, 2.1 mmol, 1.5 eq) and HATU (816 mg, 2.1 mmol. 1.5 eq) in CH2Cl2 (25 mL) and the mixture was stirred overnight at RT. The reaction mixture was washed with water and the aqueous layer was extracted once with CH2Cl2. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography (SiO2, 0-100% EtOAc in heptanes, followed by 10% MeOH in EtOAc) to yield product (700 mg, 98%) as a yellow oil.

reactant | DIPEA | 3.6 mmol, 592 μL, 2.6 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-benzyl 2-((S)-2-amino-4-phenylbutanamido)-4-methylpentanoate hydrochloride | 1.4 mmol, 600 mg | Cl.N[C@H](C(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C)CCC1=CC=CC=C1
reactant | 2-morpholinoacetic acid | 2.1 mmol, 312 mg, 1.5 eq | O1CCN(CC1)CC(=O)O | C6H11NO3
reactant | HATU | 2.1 mmol, 816 mg, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (S)-Benzyl 4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanoate | 700 mg, 98% | CC(C[C@@H](C(=O)OCC1=CC=CC=C1)NC([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)C | C29H39N3O5
